US09062092B2
(E)-(2R,5S,11S,14S)-14-Isopropyl-2,11,15-trimethyl-3,9,12,15,28-pentaaza-tricyclo[21.3.1.1*5,9*]octacosa-1(27),21,23,25-tetraene-4,10,13,16-tetraone—Compound 17
A solution of 17b (710 mg, 1.3 mmol) in tetrahydrofuran (30 mL) was stirred at room temperature under nitrogen. Zinc dust (1.86 g, 28.6 mmol) was added followed by a solution of ammonium acetate (1.50 g, 19.5 mmol) in water (20 mL) and the reaction mixture was stirred at room temperature for 24 hours. The reaction mixture was filtered through Celite and the filter pad was washed with ethyl acetate and potassium hydrogen sulfate solution (pH ˜2). The filtrate was acidified to pH 2 with 2 M hydrochloric acid and the mixture was extracted with ethyl acetate. The organic extracts were combined, washed with water and brine, dried over anhydrous sodium sulfate, filtered and evaporated. The residue was co-evaporated with toluene and dried to afford (S)-1-{(S)-2-[(S)-2-(hept-6-enoyl-methyl-amino)-3-methyl-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid (468 mg, 85%) as a gum. A solution of (S)-1-{(S)-2-[(S)-2-(hept-6-enoyl-methyl-amino)-3-methyl-butyrylamino]propionyl}-hexahydropyridazine-3-carboxylic acid (468 mg, 1.1 mmol) in acetonitrile (25 mL) was stirred at room temperature under nitrogen. 1j (200 mg, 1.1 mmol) and N,N-diisopropylethylamine (710 mg, 1.0 mL, 5.5 mmol) was added followed by 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (585 mg, 1.54 mmol) and the reaction mixture was stirred at room temperature for 72 hours. The solvent was evaporated and the residue was dissolved in ethyl acetate. The solution was washed with 2 M hydrochloric acid, water, saturated sodium hydrogen carbonate solution, water and brine, dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanelethyl acetate 1:1 to ethyl acetate to afford the title compound as a white solid (300 mg, 49%).

reactant | (S)-1-{(S)-2-[(S)-2-(hept-6-enoyl-methyl-amino)-3-methyl-butyrylamino]propionyl}-hexahydropyridazine-3-carboxylic acid | 1.1 mmol, 468 mg | C(CCCCC=C)(=O)N([C@H](C(=O)N[C@H](C(=O)N1N[C@@H](CCC1)C(=O)O)C)C(C)C)C | C21H36N4O5
reactant | N,N-diisopropylethylamine | 5.5 mmol, 1.0 mL, 710 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 1.54 mmol, 585 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | (E)-(2R,5S,11S,14S)-14-Isopropyl-2,11,15-trimethyl-3,9,12,15,28-pentaaza-tricyclo[21.3.1.1*5,9*]octacosa-1(27),21,23,25-tetraene-4,10,13,16-tetraone | 300 mg, 49% | C(C)(C)[C@H]1C(N[C@H](C(N2CCC[C@@H](C(N[C@@H](C=3C=CC=C(/C=C/CCCCC(N1C)=O)C3)C)=O)N2)=O)C)=O | C29H43N5O4
